### PR TITLE
feat(RingTheory): add lemma for span rank of maximal ideal under surjection

### PR DESCRIPTION
**Pull request by Thmoas-Guan**
In this PR, we added the following result : for noetherian local ring `(R, m, k)`, the span rank of maximal ideal of `R/I` adding `k` dimension of `I+m^2/m^2` is equal to span rank of maximal ideal of `R`.
This would be useful when dealing with regular local ring and quotient within `m^2`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Ideal/Cotangent.lean [hunk 1]
```diff
@@ -310,6 +310,14 @@ instance : Module (ResidueField R) (CotangentSpace R) :=
 instance : IsScalarTower R (ResidueField R) (CotangentSpace R) :=
   inferInstanceAs <| IsScalarTower R (R ⧸ maximalIdeal R) _
 
+/-- `Ideal.toCotangent` for maximal ideal of local ring,
+ as `IsLocalRing.residue R` semi-linear map. -/
+def toCotangentSpace : maximalIdeal R →ₛₗ[residue R] CotangentSpace R where
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Ideal/Cotangent.lean:315]: Can you add some API for this definition?

File: Mathlib/RingTheory/Ideal/Cotangent.lean [hunk 2]
```diff
@@ -310,6 +310,14 @@ instance : Module (ResidueField R) (CotangentSpace R) :=
...
+  __ := (maximalIdeal R).toCotangent
+  map_smul' r x := by
+    simp only [AddHom.toFun_eq_coe, LinearMap.coe_toAddHom, map_smul]
+    rfl
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Ideal/Cotangent.lean:319]: Are we missing a lemma here?

File: Mathlib/Algebra/Module/SpanRankOperations.lean [hunk 3]
```diff
@@ -95,3 +95,45 @@ lemma spanFinrank_maximalIdeal_eq_finrank_cotangentSpace [IsNoetherianRing R] :
   spanFinrank_maximalIdeal_eq_finrank_cotangentSpace_of_fg (maximalIdeal R).fg_of_isNoetherianRing
 
 end IsLocalRing
+
+lemma IsLocalRing.spanFinrank_maximalIdeal_add_finrank_eq_of_surjective
```
Comment (riccardobrasca) [inline Mathlib/Algebra/Module/SpanRankOperations.lean:99]: Is it possible to extract some declarations from this proof?
